### PR TITLE
[Merged by Bors] - feat: port LinearAlgebra.FiniteDimensional

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
---

- [x] depends on: #3471
- [x] depends on: #3621

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/FiniteDimensional.lean [hunk 1]
```diff
@@ -515,20 +516,18 @@ theorem exists_nontrivial_relation_sum_zero_of_rank_succ_lt_card [FiniteDimensio
...
     conv_lhs =>
-      apply_congr
-      skip
+      congr
       rw [ite_smul]
     rw [Finset.sum_ite]
     conv =>
       congr
       congr
-      apply_congr
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/FiniteDimensional.lean]: This isn't a reasonable substitution; I think we actually want the `apply_congr` tactic ported

Comment (Komyyy) [reply Mathlib/LinearAlgebra/FiniteDimensional.lean]: I opened #3471.

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib4#3471
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib4#3471~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/LinearAlgebra/FiniteDimensional.lean [hunk 2]
```diff
@@ -0,0 +1,1574 @@
...
+end Span
+
+section Basis
+
+set_option pp.explicit true in
+theorem span_eq_top_of_linearIndependent_of_card_eq_finrank {ι : Type _} [hι : Nonempty ι]
+    [Fintype ι] {b : ι → V} (lin_ind : LinearIndependent K b)
+    (card_eq : Fintype.card ι = finrank K V) : span K (Set.range b) = ⊤ := by
+  by_cases fin : FiniteDimensional K V
+  · replace fin : FiniteDimensional _ _ := fin -- porting note: fails without this line
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/FiniteDimensional.lean:1202]: The fact this is needed is really weird...

File: Mathlib/LinearAlgebra/FiniteDimensional.lean [hunk 3]
```diff
@@ -0,0 +1,1574 @@
...
+    (hv : v ≠ 0) : Basis ι K V :=
+  let b := basisUnique ι h
+  let h : b.repr v default ≠ 0 := mt basisUnique.repr_eq_zero_iff.mp hv
+  Basis.ofRepr
+    { toFun := fun w => Finsupp.single default (b.repr w default / b.repr v default)
+      invFun := fun f => f default • v
+      map_add' := by simp [add_div]
+      map_smul' := by simp [mul_div]
+      left_inv := fun w => by
+        apply_fun b.repr using b.repr.toEquiv.injective
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/FiniteDimensional.lean:608]: This fails, see https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/bug.20in.20apply_fun/near/350998164

File: Mathlib/LinearAlgebra/FiniteDimensional.lean [hunk 4]
```diff
@@ -230,39 +233,44 @@ theorem finiteDimensional_iff_of_rank_eq_nsmul {W} [AddCommGroup W] [Module K W]
...
-/-- An `n`-dimensional vector space has a basis indexed by `fin n`. -/
+/-- An `n`-dimensional vector space has a basis indexed by `Fin n`. -/
 noncomputable def finBasisOfFinrankEq [FiniteDimensional K V] {n : ℕ} (hn : finrank K V = n) :
     Basis (Fin n) K V :=
   (finBasis K V).reindex (Fin.cast hn).toEquiv
 #align finite_dimensional.fin_basis_of_finrank_eq FiniteDimensional.finBasisOfFinrankEq
 
 variable {K V}
 
+set_option pp.explicit true in
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/FiniteDimensional.lean:267]:
```suggestion
```

File: Mathlib/LinearAlgebra/FiniteDimensional.lean [hunk 5]
```diff
@@ -1172,26 +1194,28 @@ end Span
 
 section Basis
 
+set_option pp.explicit true in
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/FiniteDimensional.lean:1197]:
```suggestion
```

File: Mathlib/LinearAlgebra/FiniteDimensional.lean (hunk 3 above)
Comment (semorrison) [reply Mathlib/LinearAlgebra/FiniteDimensional.lean:608]: No longer fails!

File: Mathlib/LinearAlgebra/FiniteDimensional.lean (hunk 1 above)
Comment (semorrison) [reply Mathlib/LinearAlgebra/FiniteDimensional.lean]: I've fixed the use of `apply_congr`. A gotcha is that we need to use `rfl` rather than `skip` inside `conv`, apparently.

File: Mathlib/LinearAlgebra/FiniteDimensional.lean [hunk 6]
```diff
@@ -1381,6 +1393,11 @@ open Module
 
 variable {F E : Type _} [Field F] [Ring E] [Algebra F E]
 
+-- Porting note: these instances can not be found with `etaExperiment`,
+-- so we have to provide a short-circuit instance here.
+instance (S : Subalgebra F E) : AddCommMonoid { x // x ∈ S } := inferInstance
+instance (S : Subalgebra F E) : AddCommGroup { x // x ∈ S } := inferInstance
+
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/FiniteDimensional.lean:1400]: I think I ran into trouble with these in #3600  too

File: Mathlib/LinearAlgebra/FiniteDimensional.lean [hunk 7]
```diff
@@ -1399,27 +1416,37 @@ instance FiniteDimensional.finiteDimensional_subalgebra [FiniteDimensional F E]
...
-  obtain ⟨m, hm, he⟩ := Cardinal.exists_nat_eq_of_le_nat (h.trans_eq Nat.cast_one.symm)
-  haveI := finiteDimensional_of_rank_eq_nat he
+  obtain ⟨m, _, he⟩ := Cardinal.exists_nat_eq_of_le_nat (h.trans_eq Nat.cast_one.symm)
+  haveI I₁ := finiteDimensional_of_rank_eq_nat he
   rw [← not_bot_lt_iff, ← Subalgebra.toSubmodule.lt_iff_lt]
-  haveI := S.toSubmoduleEquiv.symm.finiteDimensional
-  refine' fun hl => (Submodule.finrank_lt_finrank_of_lt hl).not_le (nat_cast_le.1 _)
-  iterate 2 rw [Subalgebra.finrank_toSubmodule, finrank_eq_rank]
-  exact h.trans_eq subalgebra.rank_bot.symm
+  -- Porting FIXME: why does this not pick up the `I₁` when we use
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/FiniteDimensional.lean:1432]: Does adding an explicit annotation to `I₁` help? I had to do that in lots of places earlier in the file.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/FiniteDimensional.lean]: Yes, it does; applied

Comment (semorrison) [reply Mathlib/LinearAlgebra/FiniteDimensional.lean]: What do you mean by an "explicit annotation"?

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/FiniteDimensional.lean]: I mean `haveI : FiniteDimensional K V :=` instead of `haveI :=`

File: Mathlib/LinearAlgebra/FiniteDimensional.lean [hunk 8]
```diff
@@ -0,0 +1,1605 @@
...
+  let h : b.repr v default ≠ 0 := mt basisUnique.repr_eq_zero_iff.mp hv
+  Basis.ofRepr
+    { toFun := fun w => Finsupp.single default (b.repr w default / b.repr v default)
+      invFun := fun f => f default • v
+      map_add' := by simp [add_div]
+      map_smul' := by simp [mul_div]
+      left_inv := fun w => by
+        apply_fun b.repr using b.repr.toEquiv.injective
+        -- porting note: was `apply_fun Equiv.finsuppUnique`
+        refine Equiv.finsuppUnique.injective ?_
```
Comment (semorrison) [inline Mathlib/LinearAlgebra/FiniteDimensional.lean:612]: @kmill, any chance you want to look at this as our resident `apply_fun` expert? :-)

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/FiniteDimensional.lean:612]: I think there's a `TODO` comment in `apply_fun` about this

File: Mathlib/LinearAlgebra/FiniteDimensional.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/FiniteDimensional.lean:1401]: I can remove these if I bump up the heartbeats

File: Mathlib/LinearAlgebra/FiniteDimensional.lean (hunk 2 above)
Comment (semorrison) [reply Mathlib/LinearAlgebra/FiniteDimensional.lean:1217]: I've added a link to the zulip discussion.

File: Mathlib/LinearAlgebra/FiniteDimensional.lean (hunk 8 above)
Comment (semorrison) [reply Mathlib/LinearAlgebra/FiniteDimensional.lean:613]: Couldn't find one?

File: Mathlib/LinearAlgebra/FiniteDimensional.lean [hunk 9]
```diff
@@ -1365,51 +1410,66 @@ alias Subalgebra.finiteDimensional_toSubmodule ↔
...
 #align subalgebra.eq_bot_of_rank_le_one Subalgebra.eq_bot_of_rank_le_one
 
 theorem Subalgebra.eq_bot_of_finrank_one {S : Subalgebra F E} (h : finrank F S = 1) : S = ⊥ :=
   Subalgebra.eq_bot_of_rank_le_one <| by
-    haveI := finite_dimensional_of_finrank_eq_succ h
+    -- porting note: fails without explicit type
+    haveI : FiniteDimensional F S := finiteDimensional_of_finrank_eq_succ h
     rw [← finrank_eq_rank, h, Nat.cast_one]
+    -- porting note: added, `rw` forgot to close this
+    exact le_rfl
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/FiniteDimensional.lean:1449]: I assume `rw` is doing "`rfl`, but with a short timeout". This seems like a questionable design, because changes to performance can then change the goal state.

File: Mathlib/LinearAlgebra/FiniteDimensional.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/FiniteDimensional.lean]: I removed them; we already need heartbeat hacks in the section, I'd rather avoid a proliferation of instances, as I worry doing that everywhere that will make TC search even worse.

File: Mathlib/LinearAlgebra/FiniteDimensional.lean (hunk 8 above)
Comment (kmill) [reply Mathlib/LinearAlgebra/FiniteDimensional.lean:613]: The "`apply_fun` could not apply `Equiv.finsuppUnique` to the main goal" error is unrelated to the TODO that used to be there about `Equiv` (before the most recent `apply_fun` PR).

The issue is that `apply_fun` is missing some sort of expression normalization for the target before determining what the goal relation is.
```suggestion
        -- porting note: need `dsimp only` to get `apply_fun` to see that the goal is an equality (this is a bug in `apply_fun`).
        dsimp only
        apply_fun Equiv.finsuppUnique
```
I'll try to fix this.

Comment (kmill) [reply Mathlib/LinearAlgebra/FiniteDimensional.lean:613]: #3621

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib4#3471~~
* ~~leanprover-community/mathlib4#3621~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/LinearAlgebra/FiniteDimensional.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/FiniteDimensional.lean]: I've now added a comment suggesting that we may want to revisit adding these in future.

File: Mathlib/LinearAlgebra/FiniteDimensional.lean [hunk 10]
```diff
@@ -0,0 +1,1615 @@
...
+- `fintypeBasisIndex` states that a finite-dimensional
+  vector space has a finite basis
+- `FiniteDimensional.finBasis` and `FiniteDimensional.finBasisOfFinrankEq`
+  are bases for finite dimensional vector spaces, where the index type
+  is `Fin`
+- `of_fintype_basis` states that the existence of a basis indexed by a
+  finite type implies finite-dimensionality
+- `of_finite_basis` states that the existence of a basis indexed by a
+  finite set implies finite-dimensionality
+- `is_noetherian.iff_fg` states that the space is finite-dimensional if and only if
```
Comment (alexjbest) [inline Mathlib/LinearAlgebra/FiniteDimensional.lean:46]:
```suggestion
- `IsNoetherian.iff_fg` states that the space is finite-dimensional if and only if
```

File: Mathlib/LinearAlgebra/FiniteDimensional.lean [hunk 11]
```diff
@@ -0,0 +1,1605 @@
...
+end DivisionRing
+
+section SubalgebraRank
+
+open Module
+
+variable {F E : Type _} [Field F] [Ring E] [Algebra F E]
+
+/-
+Some of the lemmas in this section can be made faster by adding these short-cut instances
```
Comment (dupuisf) [inline Mathlib/LinearAlgebra/FiniteDimensional.lean:1390]:
```suggestion
/-
porting note:
Some of the lemmas in this section can be made faster by adding these short-cut instances
```
Just to make it clear that this was added during porting.

**Review by dupuisf — APPROVED** [review]

**Review by jcommelin — APPROVED** [review]
LGTM

**Comment by semorrison** [comment]
bors merge
